US04487764
(a) Z-Trp-Pro-OBut
10.92 g (53 mmoles) of DCC are added at 0° C. to a solution of 16.9 g (50 mmoles) of Z-Trp-OH, 8.55 g (50 mmoles) of H-Pro-OBut and 6.75 g (50 mmoles) of HOBt in 75 ml of dimethylformamide. The mixture is stirred for 2 hours at 0° C. and left to stand overnight at room temperature. The precipitate is filtered off and the filtrate is concentrated. The residue is worked up analogously to Example 1 a. The residue is triturated with ether. Yield 19.49 g (79%), melting point 173°, [α]D25 =-54.2° (c=1, dimethylformamide).

reactant | DCC | 53 mmoles, 10.92 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Z-Trp-OH | 50 mmoles, 16.9 g | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H18N2O4
reactant | H-Pro-OBut | 50 mmoles, 8.55 g | N1[C@H](C(=O)OC(C)(C)C)CCC1 | C9H17NO2
reactant | HOBt | 50 mmoles, 6.75 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | Z-Trp-Pro-OBut | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C28H33N3O5
